US05136059
2,3-Difluoro-6-nitro-[(2-hydroxypropyl)oxy]benzene (VIII, Xa=Xb=F)
A mixture of 6.35 g of 2,3-difluoro-6-nitro{[2-(tetrahydropyran-2-yl)oxypropyl]oxy}benzene (I, Xa=Xb=F, Rc=THP, 60 ml of anhydrous ethanol and 640 mg of pyridinium tosylate was stirred at room temperature overnight and then heated under refluxing for 1 hour. The solvent was removed under reduced pressure. To the residue were added ethyl acetate and 1 N hydrochloric acid. The mixture was shaken, and the organic layer was separated. The organic layer was washed successively with a saturated sodium bicarbonate aqueous solution and water, then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to yield the oily titled compound. This product was used in the following reaction without purification.

reactant | 2,3-difluoro-6-nitro{[2-(tetrahydropyran-2-yl)oxypropyl]oxy}benzene | 6.35 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])OCC(C)OC1OCCCC1 | C14H17F2NO5
reactant | pyridinium tosylate | 640 mg | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2,3-Difluoro-6-nitro-[(2-hydroxypropyl)oxy]benzene | FC1=C(C(=CC=C1F)[N+](=O)[O-])OCC(C)O | C9H9F2NO4
